US07465730B2
To a solution of 3-hydroxymethyl-4-nitro-phenol (510 mg, 3.0 mmol) in 5 mL of dry DMF was added bromoethane (540 mg, 5.0 mmol) and K2CO3 powder (500 mg). The resulting reaction mixture was warmed to 50° C. and stirred for 1 h. It was quenched by addition of 20 mL of H2O, extracted with diethyl ether (2×20 mL). The combined organic extracts were washed with brine (50 mL), dried (MgSO4), filtered, and concentrated in vacuo to afford (5-ethoxy-2-nitro-phenyl)-methanol as a pale yellow oil: 1H NMR (CDCl3, 500 MHz) δ 8.20 (d, 1H), 7.36 (s, 1H), 6.89 (m, 1H), 5.00 (s, 2H), 4.16 (q, 2H), 2.57 (br t, 1H), 1.49 (t, 3H).

reactant | 3-hydroxymethyl-4-nitro-phenol | 3.0 mmol, 510 mg | OCC=1C=C(C=CC1[N+](=O)[O-])O | C7H7NO4
reactant | bromoethane | 5.0 mmol, 540 mg | BrCC | C2H5Br
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (5-ethoxy-2-nitro-phenyl)-methanol | C(C)OC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C9H11NO4
